US09334278B2
To a solution of 2-bromo-3-chloro-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (600 mg, 1.48 mmol) in DMF (5 mL) was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (650 mg, 3.39 mmol) and HOBT (520 mg, 3.39 mmol) and the mixture stirred for 10 min. 2-methylpropan-2-amine (432 mg, 5.9 mmol) was added and the mixture stirred at room temperature for 16 h, then diluted with 10% citric acid and ethyl acetate. The organic layer was separated and washed with 10% citric acid, saturated aqueous NaHCO3 and brine, then concentrated in vacuo and purified by chromatography (silica, 5-20% ethyl acetate in hexanes) to give 2-bromo-N-tert-butyl-3-chloro-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (530 mg, 1.15 mmol, 78%) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm: 8.30 (s, 1H), 7.72 (s, 1H), 5.64 (s, 2H), 3.57 (t, J=8.3 Hz, 2H), 1.56 (s, 9H), 0.96 (t, J=8.3 Hz, 2H), 0.01 (s, 9H).

reactant | 2-bromo-3-chloro-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid | 1.48 mmol, 600 mg | BrC=1N=C2C(=NC1Cl)N(C=C2C(=O)O)COCC[Si](C)(C)C | C13H17BrClN3O3Si
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 3.39 mmol, 650 mg | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 3.39 mmol, 520 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-methylpropan-2-amine | 5.9 mmol, 432 mg | CC(C)(C)N | C4H11N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-bromo-N-tert-butyl-3-chloro-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 1.15 mmol, 530 mg, 78% | BrC=1N=C2C(=NC1Cl)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H26BrClN4O2Si
